US04141902
In the manner given in Example 2, 7-fluoro-5-(o-chlorophenyl)-3H-1,4-benzodiazepin-2-yl hydrazine was reacted with dibromoacetyl chloride and after 1.5 hours with sodium acetate, then the mixture was refluxed to give 8-fluoro-1-(dibromomethyl)-6-(o-chlorophenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine.

reactant | 7-fluoro-5-(o-chlorophenyl)-3H-1,4-benzodiazepin-2-yl hydrazine | FC=1C=CC2=C(C(=NCC(=N2)NN)C2=C(C=CC=C2)Cl)C1 | C15H12ClFN4
reactant | dibromoacetyl chloride | BrC(C(=O)Cl)Br | C2HBr2ClO
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 8-fluoro-1-(dibromomethyl)-6-(o-chlorophenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | FC=1C=CC2=C(C(=NCC=3N2C(=NN3)C(Br)Br)C3=C(C=CC=C3)Cl)C1 | C17H10Br2ClFN4
